data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-C1CCCCC1_2-c1ccc(OC)cc1_3-c1ccoc1_4-c1ccc(OC)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C1CCCCC1)(c1ccc(OC)cc1)(O)C(O)(c1ccoc1)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(C1CCCCC1)C(c1ccc(OC)cc1)(c1ccoc1)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1ccc(OC)cc1)(O)C([OH2+])(c1ccoc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C1CCCCC1)(c1ccc(OC)cc1)(O)[C+](c1ccoc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C1CCCCC1)C(c1ccc(OC)cc1)(c1ccoc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-305_1-C2CCCCC2_2-N(C)C","level": "easy","name": "Tebbe-Petasis Olefination","reactants_smiles": ["O=C(C2CCCCC2)(N(C)C)","C[Ti](C)(C1C=CC=C1)(C1C=CC=C1)"],"products_smiles": ["C=C(C2CCCCC2)(N(C)C)","C","O=[Ti](C1C=CC=C1)(C1C=CC=C1)"],"conditions": "In situ generation of Tebbe/Petasis reagent","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C=[Ti](C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "Thermal conditions promote elimination of a methyl group from titanium, forming a reactive Ti–carbene stabilized by π-donating cyclopentadienyl ligands."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C2CCCCC2)(N(C)C)O[Ti]([CH2]1)(C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "The electrophilic Ti–carbene reacts with the nucleophilic carbonyl oxygen in a [2+2] cycloaddition, favored by orbital symmetry and the strong Ti–O bond formation."},{"step": 3,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C=C(C2CCCCC2)(N(C)C)","step_weight": 0,"rationale": "Cycloreversion occurs to relieve ring strain, driven by formation of a stable Ti=O bond and the thermodynamically favored alkene product."}],"description": "The Tebbe-Petasis olefination converts a carbonyl group into an alkene via a titanium–carbene complex. The reagent is generated in situ, undergoes [2+2] cycloaddition with the carbonyl, and then eliminates to yield the alkene and a titanium oxo species."}
